US08865704B2
1-Methyl-3-[trans-4-(4-pyridin-2-yl-piperazine-1-carbonyl)-cyclohexyl methyl]-1,5-dihydro-benzo[d][1,3]diazepine-2,4-dione
A solution of trans-4-({2-[2-(Carboxy-methyl-amino)-phenyl]-acetylamino}-methyl)-cyclohexanecarboxylic acid (0.14 mmol, 0.05 g) in SOCl2 (0.8 mL) was heated under reflux for 1.5 hours. The solvent was removed under reduced pressure and the residue was put under vacuum overnight. Then crude product was diluted with 5 ml of dry DCM. 1 ml of this stock solution was transferred in a glass vial. 39 μL (0.27 mmol) of 1-Pyridin-2-yl-piperazine were added and the reaction mixture was left stirring at room temperature under argon over night. The solvent was removed under vacuum and the crude purified by preparative HPLC (Method d) to give 26 mg of the titled compound (yield 39%).

reactant | trans-4-({2-[2-(Carboxy-methyl-amino)-phenyl]-acetylamino}-methyl)-cyclohexanecarboxylic acid | 0.14 mmol, 0.05 g | C(=O)(O)N(C1=C(C=CC=C1)CC(=O)NC[C@@H]1CC[C@H](CC1)C(=O)O)C | C18H24N2O5
reactant | 1-Pyridin-2-yl-piperazine | 0.27 mmol, 39 μL | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
solvent | SOCl2 | 0.8 mL | O=S(Cl)Cl | Cl2OS
product | 1-Methyl-3-[trans-4-(4-pyridin-2-yl-piperazine-1-carbonyl)-cyclohexyl methyl]-1,5-dihydro-benzo[d][1,3]diazepine-2,4-dione | 26 mg, yield 39% | CN1C(N(C(CC2=C1C=CC=C2)=O)C[C@@H]2CC[C@H](CC2)C(=O)N2CCN(CC2)C2=NC=CC=C2)=O | C27H33N5O3
